* source BB_BUCK
X_U3A         N21993 N20921 VCC VEE AD_I+ LM358/ON
M_M3         N20475 N20725 N20425 N20425 IRF150
M_M2         N20475 N20573 N20425 N20425 IRF150
V_V5         N20573 N20425  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
R_R2         N20743 N20499  0.1 TC=0,0 
L_L2         N20425 OUT  5mH  
V_V1         N20475 0 70Vdc
V_V3         0 VEE 0Vdc
V_V4         N209910 0 6Vdc
R_R1         0 N20499  2 TC=0,0 
X_U4B         N22240 N20929 VCC VEE AD_I- LM358/ON
M_M1         N20475 N20593 N20425 N20425 IRF150
C_C1         0 OUT  4700uF  TC=0,0 
V_V2         N20593 N20425  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
V_V6         N20725 N20425  
+PULSE 0 5 0 0.01us 0.01us {DUTY} 10us
D_D1         0 N20425 D1N5818 
V_V7         1V_REF 0 1Vdc
R_R7         N21993 1V_REF  10K TC=0,0 
R_R8         N20743 N21993  100K TC=0,0 
R_R10         N22240 1V_REF  10K TC=0,0 
R_R13         N20921 0  100K TC=0,0 
R_R14         N20929 0  100K TC=0,0 
R_R15         AD_I+ N20921  10K TC=0,0 
R_R16         AD_I- N20929  10K TC=0,0 
R_R17         N20499 N22240  100K TC=0,0 
V_V8         N20743 0  AC 0
+SIN 10 10 1000 0 0 0
V_V9         VCC N209910  AC 0
+SIN 0 1 10000 0 0 0
.PARAM  duty=1us
